US07405299B2
A. Preparation of (6-Bromo-imidazo[1,2-a]pyridin-3-yl)-acetic acid ethyl ester
Reflux a solution of 4,4-dimethoxy-but-2-enoic acid ethyl ester (3.3 g, 19.12 mmol) and toluene-4-sulfonic acid (0.02 g, 0.12 mmol) in a solution of 2:1 acetonitrile:water (90 mL) for 30 min. Add 2-amino-5-bromo-pyridine (1.65 g, 9.56 mmol) and reflux for 15 h. Cool and concentrate to ˜20 mL. Dilute the reaction with saturated aqueous sodium bicarbonate and extract into ethyl acetate. Combine and concentrate organic extracts. Flash chromatography using ethyl acetate/dichloromethane/methanol mixtures gives the subtitled compound as a brown oil (2.9 g). TOF MS ES+ exact mass calculated for C11H11BrN2O2 (p+1): m/z=283.0075 Found: 283.0082. 1H NMR (400 MHz, DMSO-d6) δ 8.68 (s, 1H), 7.55 (d, J=10 Hz, 1H), 7.49 (s, 1H), 7.34 (d, J=10 Hz, 1H), 4.15 (s, 2H), 4.09 (q, J=4 Hz, 2H), 1.18 (t, J=4 Hz, 3H). EA Calcd. For C11H11BrN2O2: C, 46.66; H, 3.92; N, 9.89; Found C, 46.56; H, 4.02; N, 9.60.

reactant | 4,4-dimethoxy-but-2-enoic acid ethyl ester | 19.12 mmol, 3.3 g | C(C)OC(C=CC(OC)OC)=O | C8H14O4
reactant | acetonitrile | C(C)#N | C2H3N
reactant | 2-amino-5-bromo-pyridine | 9.56 mmol, 1.65 g | NC1=NC=C(C=C1)Br | C5H5BrN2
catalyst | toluene-4-sulfonic acid | 0.12 mmol, 0.02 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | 90 mL | O | H2O
product | (6-Bromo-imidazo[1,2-a]pyridin-3-yl)-acetic acid ethyl ester | 2.9 g | C(C)OC(CC1=CN=C2N1C=C(C=C2)Br)=O | C11H11BrN2O2
